US08211908B2
To a solution of 0.10 g of (5-bromopyridin-3-yl)methanol in 5 mL of dioxane, 72 mg of 2-furanboronic acid, 67 mg of lithium chloride, 0.51 g of cesium carbonate, 5.4 mg of palladium acetate and 20 mg of 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl were added at room temperature, and the mixture was heated under reflux for 1 hour 30 minutes under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, and the solvent was then distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with chloroform:methanol=95:5 to 90:10 to obtain 39 mg of (5-(2-furyl)pyridin-3-yl)methanol as a yellow oily substance.

reactant | (5-bromopyridin-3-yl)methanol | 0.10 g | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | 2-furanboronic acid | 72 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | lithium chloride | 67 mg | [Cl-].[Li+]
reactant | cesium carbonate | 0.51 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 20 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 5.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (5-(2-furyl)pyridin-3-yl)methanol | 39 mg | O1C(=CC=C1)C=1C=C(C=NC1)CO | C10H9NO2
